US07968570B2
J26: 7-Chloro-2-(4-chloro-benzyl)-5-(1H-imidazol-4-yl)-2,3-dihydro-isoindol-1-one
A mixture of 5-Bromo-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one (127 mg, 0.343 mmol), 4-Tributylstannanyl-1-trityl-1H-imidazole (300 mg, 0.514 mmol), and Pd(PPh3)4 (79 mg, 0.0514 mmol) in toluene (15 mL) stirred overnight at 110° C. The mixture was cooled, diluted with water and extracted with ethyl acetate. The organics were washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated. The resulting residue (7-Chloro-2-(4-chloro-benzyl)-5-(1-trityl-1H-imidazol-4-yl)-2,3-dihydro-isoindol-1-one) was dissolved in formic acid (5 mL) and stirred at room temperature for 18 hrs. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The organics were washed with 3N HCl (2×30 ml) and the aqueous washes were combined, neutralized with 1N NaOH, and extracted with ethyl acetate. The organics were washed with brine, and dried over anhydrous sodium sulfate, filtered and concentrated. Column chromatography (100% Ethyl acetate—5% 2M NH3 in MeOH/CH2Cl2) provided the title compound (22 mg, 18%). 1H NMR (300 MHz, CDCl3): δ 7.80 (s, 2H), 7.7.75 (s, 1H), 7.46 (s, 1H), 7.35-7.30 (m, 4H), 4.77 (s, 2H), 4.27 (s, 2H).

reactant | 5-Bromo-7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.343 mmol, 127 mg | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)CC1=CC=C(C=C1)Cl | C15H10BrCl2NO
reactant | 4-Tributylstannanyl-1-trityl-1H-imidazole | 0.514 mmol, 300 mg | C(CCC)[Sn](C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.0514 mmol, 79 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Chloro-2-(4-chloro-benzyl)-5-(1H-imidazol-4-yl)-2,3-dihydro-isoindol-1-one | 22 mg, 18% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)Cl)C=1N=CNC1 | C18H13Cl2N3O
